US04916156
(a) 4-Dimethylamino-2-(naphth-1-yl)butyronitrile
6.9 g of sodium amide are added in small portions to 29.4 g of naphth-1-ylacetonitrile in 250 ml of anhydrous benzene and the mixture is heated at 80° C. for 2 hours. It is cooled to +40° C., 19 g of 2-chlorodimethylaminoethane are added dropwise and the mixture is then heated again at 80° C. for 4 hours. It is cooled and 200 ml of water are added. After decantation, the organic phase is extracted with a 10% solution of hydrochloric acid. The aqueous phase is washed with ether, neutralized with a 10% solution of sodium hydroxide and extracted with ether and the extract is then washed with water and dried over sodium sulfate. 24 g of the expected product are obtained after evaporation of the solvent.

reactant | sodium amide | 6.9 g | [NH2-].[Na+]
reactant | naphth-1-ylacetonitrile | 29.4 g | C1(=CC=CC2=CC=CC=C12)CC#N | C12H9N
reactant | 2-chlorodimethylaminoethane | 19 g | ClCCN(C)C | C4H10ClN
reactant | water | 200 ml | O | H2O
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 4-Dimethylamino-2-(naphth-1-yl)butyronitrile | 24 g | CN(CCC(C#N)C1=CC=CC2=CC=CC=C12)C | C16H18N2
